US04478849
4-Carbomethoxy-3-methylbenzyl bromide
N-Bromosuccinimide (44.9 g) was added to a solution of methyl 2,4-dimethylbenzoate (41.36 g) in carbon tetrachloride containing a trace of dibenzoyl peroxide. The mixture was heated under reflux until no orange colour persisted then cooled, filtered and the filtrate evaporated to leave an oil. This was distilled until ~16 g distillate bp 98°-140°/0.8-5 mm (starting material) had been collected. The residue was then heated at atmospheric pressure until no more methyl bromide was evolved, to give a mixture of the title compound and 4-methylphthalide. Addition of hot petrol and filtration from the phthalide gave after evaporation the title compound. τ(CDCl3) 7.48 (3H, s), 6.21 (3H, s), 5.65 (2H, s), 2.6-2.93 (2H, m), 2.18 (1H, d, J=8 Hz).

reactant | N-Bromosuccinimide | 44.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl 2,4-dimethylbenzoate | 41.36 g | CC1=C(C(=O)OC)C=CC(=C1)C | C10H12O2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 4-methylphthalide | CC1=C2COC(=O)C2=CC=C1 | C9H8O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Carbomethoxy-3-methylbenzyl bromide | C(=O)(OC)C1=C(C=C(CBr)C=C1)C | C10H11BrO2
